### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Limits/Final): Additional equational lemmas for cones extended along final functors

### PR DESCRIPTION
**Pull request by robin-carlier**
Add an equational lemma for the natural transform of `extentedCocone` in case an explicit lift is already at hand, as well as the dual statement for initial functors.

---

Suggested by @joelriou to simplify a proof in #8013.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Final.lean [hunk 1]
```diff
@@ -511,6 +522,17 @@ def extendCone : Cone (F ⋙ G) ⥤ Cone G where
             · rw [← Functor.map_comp] } }
   map f := { hom := f.hom }
 
+/-- Alternative equational lemma for `(extendCone c).π.app` in case a lift of the object
+is given explicitly. -/
+lemma extendCone_obj_π_app' (c : Cone (F ⋙ G)) {X : C} {Y : D} (f : F.obj X ⟶ Y) :
+    (extendCone.obj c).π.app Y = c.π.app X ≫ G.map f := by
+  apply induction (k₀ := f) (z := rfl) F fun Z g =>
+   c.π.app Z ≫ G.map g = c.π.app X ≫ G.map f
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Final.lean:530]:
```suggestion
    c.π.app Z ≫ G.map g = c.π.app X ≫ G.map f
```

**Comment by joelriou** [comment]
Thanks!

bors merge
